.title kicad schematic

.include NPN.lib
q4 net-_q4-pad1_ net-_q4-pad2_ net-_q4-pad3_ Q2N2222
* u1 net-_q2-pad1_ net-_q2-pad2_ net-_q3-pad2_ net-_q3-pad3_ unconnected-_u1-pad5_ net-_q5-pad2_ net-_q5-pad1_ net-_q6-pad1_ net-_q6-pad2_ unconnected-_u1-pad10_ net-_q4-pad2_ net-_q4-pad3_ net-_q1-pad2_ net-_q1-pad1_ port
q6 net-_q6-pad1_ net-_q6-pad2_ net-_q4-pad1_ Q2N2222
q5 net-_q5-pad1_ net-_q5-pad2_ net-_q4-pad1_ Q2N2222
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
q3 net-_q1-pad3_ net-_q3-pad2_ net-_q3-pad3_ Q2N2222
q2 net-_q2-pad1_ net-_q2-pad2_ net-_q1-pad3_ Q2N2222
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
