* Subcircuit CA3036
.subckt CA3036 net-_q1-pad1_ net-_q2-pad3_ net-_q1-pad3_ net-_q1-pad2_ net-_q1-pad1_ net-_q1-pad1_ net-_q1-pad1_ net-_q4-pad2_ net-_q3-pad2_ net-_q3-pad3_ 
.title kicad schematic
.include NPN.lib
q2 net-_q1-pad1_ net-_q1-pad3_ net-_q2-pad3_ Q2N2222
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
q3 net-_q1-pad1_ net-_q3-pad2_ net-_q3-pad3_ Q2N2222
q4 net-_q1-pad1_ net-_q4-pad2_ net-_q3-pad2_ Q2N2222
* Control Statements

.ends CA3036