* Subcircuit CA3260
.subckt CA3260 net-_m7-pad1_ net-_d4-pad2_ net-_d1-pad2_ net-_m10-pad3_ net-_d8-pad2_ net-_d5-pad2_ net-_m10-pad1_ net-_m1-pad3_ 
.title kicad schematic
.include D.lib
.include PMOS-180nm.lib
.include NPN.lib
.include NMOS-180nm.lib
m4 net-_d2-pad2_ net-_m1-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
d4 net-_d3-pad1_ net-_d4-pad2_ 1N4148
r7 net-_c1-pad1_ net-_m6-pad1_ 2k
d3 net-_d3-pad1_ net-_d2-pad2_ 1N4148
m6 net-_m6-pad1_ net-_m1-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
r5 net-_c1-pad2_ net-_m5-pad1_ 1k
q5 net-_c1-pad2_ net-_m3-pad1_ net-_q5-pad3_ Q2N2222
m5 net-_m5-pad1_ net-_d4-pad2_ net-_d2-pad2_ net-_d2-pad2_ CMOSP W=100u L=100u M=1
c1 net-_c1-pad1_ net-_c1-pad2_ 30p
r3 net-_q4-pad1_ net-_m3-pad1_ 1k
m3 net-_m3-pad1_ net-_d1-pad2_ net-_d2-pad2_ net-_d2-pad2_ CMOSP W=100u L=100u M=1
r6 net-_m7-pad3_ net-_q5-pad3_ 1k
d2 net-_d1-pad1_ net-_d2-pad2_ 1N4148
m2 net-_m2-pad1_ net-_m1-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
m1 net-_m1-pad1_ net-_m1-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
q1 net-_m1-pad3_ net-_m1-pad1_ net-_q1-pad3_ Q2N2222
q3 net-_m2-pad1_ net-_m2-pad1_ net-_m7-pad3_ Q2N2222
q2 net-_m1-pad1_ net-_m2-pad1_ net-_q2-pad3_ Q2N2222
r1 net-_m7-pad3_ net-_q1-pad3_ 200k
r2 net-_m7-pad3_ net-_q2-pad3_ 300k
q4 net-_q4-pad1_ net-_m3-pad1_ net-_q4-pad3_ Q2N2222
r4 net-_m7-pad3_ net-_q4-pad3_ 1k
q6 net-_m6-pad1_ net-_c1-pad2_ net-_m7-pad3_ Q2N2222
m7 net-_m7-pad1_ net-_m6-pad1_ net-_m7-pad3_ net-_m7-pad3_ CMOSN W=100u L=100u M=1
m10 net-_m10-pad1_ net-_m10-pad2_ net-_m10-pad3_ net-_m10-pad3_ CMOSN W=100u L=100u M=1
m9 net-_m10-pad1_ net-_m10-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
m8 net-_m7-pad1_ net-_m6-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
m11 net-_m10-pad2_ net-_m11-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
r8 net-_c2-pad1_ net-_m10-pad2_ 2k
d5 net-_d5-pad1_ net-_d5-pad2_ 1N4148
c2 net-_c2-pad1_ net-_c2-pad2_ 30p
q7 net-_m10-pad2_ net-_c2-pad2_ net-_m10-pad3_ Q2N2222
m13 net-_d6-pad2_ net-_m11-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
d6 net-_d5-pad1_ net-_d6-pad2_ 1N4148
q8 net-_c2-pad2_ net-_m14-pad1_ net-_q8-pad3_ Q2N2222
r10 net-_m10-pad3_ net-_q8-pad3_ 1k
r11 net-_q9-pad1_ net-_m14-pad1_ 1k
q9 net-_q9-pad1_ net-_m14-pad1_ net-_q9-pad3_ Q2N2222
m12 net-_m12-pad1_ net-_d5-pad2_ net-_d6-pad2_ net-_d6-pad2_ CMOSP W=100u L=100u M=1
r9 net-_c2-pad2_ net-_m12-pad1_ 1k
m14 net-_m14-pad1_ net-_d8-pad2_ net-_d6-pad2_ net-_d6-pad2_ CMOSP W=100u L=100u M=1
r13 net-_m10-pad3_ net-_q11-pad3_ 300k
r14 net-_m10-pad3_ net-_q12-pad3_ 200k
r12 net-_m10-pad3_ net-_q9-pad3_ 1k
m16 net-_m11-pad2_ net-_m11-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
d7 net-_d7-pad1_ net-_d6-pad2_ 1N4148
m15 net-_m15-pad1_ net-_m11-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
d8 net-_d7-pad1_ net-_d8-pad2_ 1N4148
q10 net-_m15-pad1_ net-_m15-pad1_ net-_m10-pad3_ CMOSP
q12 net-_m1-pad3_ net-_m11-pad2_ net-_q12-pad3_ CMOSP
q11 net-_m11-pad2_ net-_m15-pad1_ net-_q11-pad3_ Q2N2222
* Control Statements

.ends CA3260