* C:\FOSSEE\eSim\library\SubcircuitLibrary\CD4030\CD4030.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 05/29/25 12:06:45

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
M3  Net-_M1-Pad1_ Net-_M1-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M6  Net-_M1-Pad1_ Net-_M2-Pad2_ Net-_M10-Pad2_ Net-_M11-Pad3_ eSim_MOS_P		
M8  Net-_M8-Pad1_ Net-_M2-Pad1_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M11  Net-_M10-Pad1_ Net-_M10-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M9  Net-_M8-Pad1_ Net-_M1-Pad1_ Net-_M10-Pad2_ Net-_M11-Pad3_ eSim_MOS_P		
M7  Net-_M10-Pad2_ Net-_M1-Pad1_ Net-_M2-Pad1_ Net-_M1-Pad3_ eSim_MOS_N		
M10  Net-_M10-Pad1_ Net-_M10-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M1  Net-_M1-Pad1_ Net-_M1-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M5  Net-_M1-Pad1_ Net-_M2-Pad1_ Net-_M10-Pad2_ Net-_M1-Pad3_ eSim_MOS_N		
M4  Net-_M2-Pad1_ Net-_M2-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M2  Net-_M2-Pad1_ Net-_M2-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M14  Net-_M12-Pad1_ Net-_M12-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M17  Net-_M12-Pad1_ Net-_M13-Pad2_ Net-_M16-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M19  Net-_M19-Pad1_ Net-_M13-Pad1_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M22  Net-_M21-Pad1_ Net-_M16-Pad3_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M20  Net-_M19-Pad1_ Net-_M12-Pad1_ Net-_M16-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M21  Net-_M21-Pad1_ Net-_M16-Pad3_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M12  Net-_M12-Pad1_ Net-_M12-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M16  Net-_M12-Pad1_ Net-_M13-Pad1_ Net-_M16-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M15  Net-_M13-Pad1_ Net-_M13-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M13  Net-_M13-Pad1_ Net-_M13-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M25  Net-_M23-Pad1_ Net-_M23-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M28  Net-_M23-Pad1_ Net-_M24-Pad2_ Net-_M27-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M30  Net-_M30-Pad1_ Net-_M24-Pad1_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M33  Net-_M32-Pad1_ Net-_M27-Pad3_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M31  Net-_M30-Pad1_ Net-_M23-Pad1_ Net-_M27-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M29  Net-_M27-Pad3_ Net-_M23-Pad1_ Net-_M24-Pad1_ Net-_M1-Pad3_ eSim_MOS_N		
M32  Net-_M32-Pad1_ Net-_M27-Pad3_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M23  Net-_M23-Pad1_ Net-_M23-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M27  Net-_M23-Pad1_ Net-_M24-Pad1_ Net-_M27-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M26  Net-_M24-Pad1_ Net-_M24-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M24  Net-_M24-Pad1_ Net-_M24-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M36  Net-_M34-Pad1_ Net-_M34-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M39  Net-_M34-Pad1_ Net-_M35-Pad2_ Net-_M38-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M41  Net-_M41-Pad1_ Net-_M35-Pad1_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M44  Net-_M43-Pad1_ Net-_M38-Pad3_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M42  Net-_M41-Pad1_ Net-_M34-Pad1_ Net-_M38-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M40  Net-_M38-Pad3_ Net-_M34-Pad1_ Net-_M35-Pad1_ Net-_M1-Pad3_ eSim_MOS_N		
M43  Net-_M43-Pad1_ Net-_M38-Pad3_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M34  Net-_M34-Pad1_ Net-_M34-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M38  Net-_M34-Pad1_ Net-_M35-Pad1_ Net-_M38-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M37  Net-_M35-Pad1_ Net-_M35-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M35  Net-_M35-Pad1_ Net-_M35-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
U1  Net-_M2-Pad2_ Net-_M1-Pad2_ Net-_M10-Pad1_ Net-_M21-Pad1_ Net-_M12-Pad2_ Net-_M13-Pad2_ Net-_M1-Pad3_ Net-_M24-Pad2_ Net-_M23-Pad2_ Net-_M32-Pad1_ Net-_M43-Pad1_ Net-_M34-Pad2_ Net-_M35-Pad2_ Net-_M11-Pad3_ PORT		
M18  Net-_M16-Pad3_ Net-_M12-Pad1_ Net-_M13-Pad1_ Net-_M1-Pad3_ eSim_MOS_N		

.end
