* C:\FOSSEE\eSim\library\SubcircuitLibrary\CD4049\CD4049.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 5/19/2025 10:16:37 PM

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
M1  g Net-_D7-Pad2_ vss vss mosfet_n		
M3  g Net-_D7-Pad2_ vdd vdd mosfet_p		
D7  vss Net-_D7-Pad2_ eSim_Diode		
D3  vss a eSim_Diode		
R1  a Net-_D7-Pad2_ resistor		
D2  vss a eSim_Diode		
D1  vss vdd eSim_Diode		
D9  vss vdd eSim_Diode		
M5  h Net-_D17-Pad2_ vss vss mosfet_n		
M7  h Net-_D17-Pad2_ vdd vdd mosfet_p		
D17  vss Net-_D17-Pad2_ eSim_Diode		
D13  vss b eSim_Diode		
R3  b Net-_D17-Pad2_ resistor		
D12  vss b eSim_Diode		
D11  vss vdd eSim_Diode		
D19  vss vdd eSim_Diode		
M9  i Net-_D27-Pad2_ vss vss mosfet_n		
M11  i Net-_D27-Pad2_ vdd vdd mosfet_p		
D27  vss Net-_D27-Pad2_ eSim_Diode		
D23  vss c eSim_Diode		
R5  c Net-_D27-Pad2_ resistor		
D22  vss c eSim_Diode		
D21  vss vdd eSim_Diode		
D29  vss vdd eSim_Diode		
M2  j Net-_D8-Pad2_ vss vss mosfet_n		
M4  j Net-_D8-Pad2_ vdd vdd mosfet_p		
D8  vss Net-_D8-Pad2_ eSim_Diode		
D6  vss d eSim_Diode		
R2  d Net-_D8-Pad2_ resistor		
D5  vss d eSim_Diode		
D4  vss vdd eSim_Diode		
D10  vss vdd eSim_Diode		
M6  k Net-_D18-Pad2_ vss vss mosfet_n		
M8  k Net-_D18-Pad2_ vdd vdd mosfet_p		
D18  vss Net-_D18-Pad2_ eSim_Diode		
D16  vss e eSim_Diode		
R4  e Net-_D18-Pad2_ resistor		
D15  vss e eSim_Diode		
D14  vss vdd eSim_Diode		
D20  vss vdd eSim_Diode		
M10  l Net-_D28-Pad2_ vss vss mosfet_n		
M12  l Net-_D28-Pad2_ vdd vdd mosfet_p		
D28  vss Net-_D28-Pad2_ eSim_Diode		
D26  vss f eSim_Diode		
R6  f Net-_D28-Pad2_ resistor		
D25  vss f eSim_Diode		
D24  vss vdd eSim_Diode		
D30  vss vdd eSim_Diode		

.end
