.title kicad schematic

.include PMOS-180nm.lib
.include NMOS-180nm.lib
r6 gnd sigd_in 1000k
* u1 siga_in siga_out sigb_in sigb_out b c gnd sigc_in sigc_out sigd_out sigd_in d a vdd port
r8 gnd sigd_out 1000k
m15 sigd_out net-_m11-pad1_ sigd_in vdd CMOSP W=100u L=0.18u M=1
m16 sigd_out d sigd_in gnd CMOSN W=100u L=0.18u M=1
m11 net-_m11-pad1_ d gnd gnd CMOSN W=0.36u L=0.18u M=1
m12 net-_m11-pad1_ d vdd vdd CMOSP W=0.72u L=0.18u M=1
m9 net-_m10-pad1_ b gnd gnd CMOSN W=0.36u L=0.18u M=1
m10 net-_m10-pad1_ b vdd vdd CMOSP W=0.72u L=0.18u M=1
r5 gnd sigb_in 1000k
m13 sigb_out net-_m10-pad1_ sigb_in vdd CMOSP W=100u L=0.18u M=1
m14 sigb_out b sigb_in gnd CMOSN W=100u L=0.18u M=1
r7 gnd sigb_out 1000k
r3 gnd siga_out 1000k
m6 sigc_out net-_m3-pad1_ sigc_in vdd CMOSP W=100u L=0.18u M=1
r4 gnd sigc_out 1000k
r2 gnd sigc_in 1000k
m8 sigc_out c sigc_in gnd CMOSN W=100u L=0.18u M=1
m4 net-_m3-pad1_ c vdd vdd CMOSP W=100u L=0.18u M=1
m2 net-_m1-pad1_ a vdd vdd CMOSP W=0.72u L=0.18u M=1
m7 siga_out a siga_in gnd CMOSN W=100u L=0.18u M=1
m5 siga_out net-_m1-pad1_ siga_in vdd CMOSP W=100u L=0.18u M=1
m3 net-_m3-pad1_ c gnd gnd CMOSN W=100u L=0.18u M=1
m1 net-_m1-pad1_ a gnd gnd CMOSN W=0.36u L=0.18u M=1
r1 gnd siga_in 1000k
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
